Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillin V / Lipitor
 
Attending: ___.
 
Chief Complaint:
Lethargy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
Date: ___
Time: ___

_
________________________________________________________________

PCP: Dr. ___
. 
_
________________________________________________________________

 

HPI: 
___ w/ history of pancreatic mass with atypical cells ___ years 
ago who is referred in for abnormal chest x-ray, concerning for 
metastasis. Per ED report pt's family reports she minimizes her 
symptoms and that she has been unable to sleep for several days 
___ pain. She reports a dry cough x weeks since ___, along 
with  epigastric and lower abdominal pain x weeks as well which 
she attributes to the coughing. She reports shortness of breath 
when laying flat which resolves immediately with sitting up. No 
shortness of breath on exertion. She reports abdominal 
distention. Her lower abdominal pain is improved with standing 
or bringing her knees close, worse with lying flat. She denies 
fever, chills, chest pain, n/v/d/c. She reportedly told EMS she 
had head pressure, but she denies that here as well as denying 
vision changes. Her family reports she is confused per baseline 
and not safe for home. 
Upon arrival she scoffs at the claim that she was confused 
although she does repeat herself and ask the same questions 
repeatedly. She reports feeling dehydrated.
.
In ER: (Triage Vitals:
0 |98.0 |117 |180/60 |18 |97% RA  )
 Meds Given: 
Fluids given: !L NS
Radiology Studies: none
 consults called.None
.

PAIN SCALE: ___ 

REVIEW OF SYSTEMS:
All other systems negative except as noted above

 
Past Medical History:
HTN
H/o pancreatic mass 
 
Social History:
___
Family History:
Multiple family members with pancreatic cancer. 
 
Physical Exam:
Vitals:  T 97.8  P ___  BP 149/62  RR 18  SaO2 96% on RA
GEN: Dishelleved appearing female
HEENT: ncat anicteric MMM, poor dentition 
NECK:  supple
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
ABD: +bs, soft, mildly distended, no rebound or guarding 
EXTR:2+ dpp b/l 
DERM: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, forgetful, ? defiant

 
Pertinent Results:
___ 03:24PM   COMMENTS-GREEN TOP
___ 03:24PM   LACTATE-1.6
___ 03:15PM   GLUCOSE-111* UREA N-29* CREAT-1.2* SODIUM-136 
POTASSIUM-5.2* CHLORIDE-99 TOTAL CO2-22 ANION GAP-20
___ 03:15PM   ALT(SGPT)-12 AST(SGOT)-24 ALK PHOS-85 TOT 
BILI-0.4
___ 03:55PM   PLT COUNT-422*
___ 03:55PM   NEUTS-76.8* LYMPHS-14.9* MONOS-6.8 EOS-0.6* 
BASOS-0.5 IM ___ AbsNeut-8.74* AbsLymp-1.70 AbsMono-0.78 
AbsEos-0.07 AbsBaso-0.06
___ 03:55PM   WBC-11.4* RBC-4.69 HGB-13.5 HCT-42.7 MCV-91 
MCH-28.8 MCHC-31.6* RDW-13.4 RDWSD-44.5
___ 03:55PM   CALCIUM-10.8*
___ 03:55PM   ALT(SGPT)-11 AST(SGOT)-18 ALK PHOS-96 TOT 
BILI-0.4
___ 03:55PM   estGFR-Using this
___ 03:55PM   GLUCOSE-114*
___ 03:15PM   PLT COUNT-341
___ 03:15PM   PLT COUNT-341
___ 03:15PM   NEUTS-78.4* LYMPHS-13.6* MONOS-6.4 EOS-0.8* 
BASOS-0.4 IM ___ AbsNeut-7.29* AbsLymp-1.26 AbsMono-0.59 
AbsEos-0.07 AbsBaso-0.04
___ 03:15PM   WBC-9.3 RBC-4.68 HGB-13.5 HCT-42.1 MCV-90 
MCH-28.8 MCHC-32.1 RDW-13.2 RDWSD-43.4
___ 03:15PM   ALBUMIN-3.8 CALCIUM-10.6* PHOSPHATE-3.3 
MAGNESIUM-2.0
___ 03:15PM   LIPASE-33
___ 03:15PM   ALT(SGPT)-12 AST(SGOT)-24 ALK PHOS-85 TOT 
BILI-0.4
___ 03:15PM   GLUCOSE-111* UREA N-29* CREAT-1.2* SODIUM-136 
POTASSIUM-5.2* CHLORIDE-99 TOTAL CO2-22 ANION GAP-20
___ 03:24PM   LACTATE-1.6
___ 03:24PM   COMMENTS-GREEN TOP
=====================================
MRCP ___
. 10 x 8 mm hypoenhancing pancreatic body mass, likely a ductal 
adenocarcinoma, causing moderate upstream dilation of the main 
pancreatic 
duct, with contact upon the anterior aspect of the splenic 
artery without 
encasement or narrowing.  No lymphadenopathy or distal 
intra-abdominal 
metastasis detected. 
2. Segment VIII FNH or transient hepatic intensity difference, 
and segment VI 
hemangioma. No concerning hepatic mass. 
3. Gallbladder adenomyomatosis. 
4. Extensive atherosclerotic plaques throughout the infrarenal 
abdominal 
aorta. 
  
CT TORSO:
FINDINGS:  
  
CHEST: 
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level without filling defect to indicate a 
pulmonary embolus.  
The thoracic aorta is normal in caliber without evidence of 
dissection or 
intramural hematoma.  Moderate atherosclerotic plaque is noted.  
The heart, 
pericardium, and great vessels are within normal limits. No 
pericardial 
effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
  
PLEURAL SPACES: No pneumothorax.  There is a small left 
nonhemorrhagic pleural 
effusion 
  
LUNGS/AIRWAYS:  There are innumerable pulmonary nodules with the 
largest mass 
in the lingula measuring 1.9 x 3.2 cm.  The airways are patent 
to the level of 
the segmental bronchi bilaterally.  There is bronchial wall 
thickening, likely 
reflecting small airways disease. 
  
BASE OF NECK:  There is an 8 mm hypodense nodule in the left 
lobe of the 
thyroid. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is a 7 mm hypodensity in segment 4 of the liver which is 
too small to 
characterize (09:21).  There is a wedge-shaped area of hypo 
enhancement in the 
right lobe along the falciform ligament which is incompletely 
characterized 
(09:24)  There is no evidence of intrahepatic or extrahepatic 
biliary 
dilatation.  The gallbladder is decompressed. 
  
PANCREAS: There is a 2.4 x 3.6 x 2.8 cm hypodense mass in the 
body of the 
pancreas.  There is distal pancreatic atrophy and duct 
dilatation.  The mass 
encases the common hepatic artery causing narrowing and abuts 
the celiac axis. 
The mass causes attenuation of the SMV and portal confluence and 
occludes the 
splenic vein.  The SMA is patent. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions.  Note is made of a 13 mm accessory 
spleen. 
  
ADRENALS:  The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis. 
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  The 
colon and 
rectum are within normal limits.  The appendix is normal.  There 
is a moderate 
to large amount of ascites. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 Ascites 
tracks into the pelvis. 
  
REPRODUCTIVE ORGANS: Hypodensity is seen within the uterus in 
the region of 
the endometrial canal measuring 8 x 17 mm.  The adnexa are 
unremarkable. 
  
LYMPH NODES: Lymphadenopathy including celiac axis lymph nodes 
measuring 1 x 
1.8 cm and portacaval lymph nodes measuring 1.5 x 1.8 cm are 
noted.  There is 
nodularity in the amount as well as peritoneal thickening and 
nodularity 
suspicious for peritoneal carcinomatosis. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Extensive 
atherosclerotic 
disease is noted.  Severe stenosis of the right superior femoral 
arteries is 
noted. 
  
BONES AND SOFT TISSUES: There are sclerotic lesions in L3 and in 
the left 
sacrum along the SI joint.  The abdominal and pelvic wall is 
within normal 
limits. 
  
IMPRESSION: 
  
  
1. Mass in the pancreatic body suspicious for adenocarcinoma, 
increased in 
size compared to MR from ___ with splenic vein 
occlusion and 
narrowing of the SMV and PV confluence. 
2. Widespread metastases including lung, peritoneal 
carcinomatosis, mesenteric 
lymphadenopathy and likely bone and liver mets. 
3. Moderate to large ascites 
4. No evidence of pulmonary embolism 
5. Small left pleural effusion 

 
Brief Hospital Course:
The patient is an ___ year old female with h/o HTN, h/o 
pancreatic mass for which she declined further w/u who presents 
with persistent cough, abdominal pain and lethargy.

METABOLIC ENCEPHALOPATHY
COUGH
METASTATIC PANCREATIC CANCER TO LUNG, LIVER, ABDOMEN
ASCITES
CT Torso ultimately found her metastatic disease which is the 
likely cause of above.  There was no evidence of PNA or PE. She 
did not seem encephalopathic the day after admission and her 
family felt she was at her baseline.

I discussed her condition at length with the patient and family. 
 She was very clear and reasonable in her wishes to decline any 
further work up or treatment.  She was interested in palliative 
care.  Therapeutic paracentesis was discussed but she declined 
this.  She will consider this going forward. She was agreeable 
to low dose Lasix for which this was started at 10mg daily.  Her 
lisinopril was stopped.  She otherwise felt well on discharge.  
Palliative care follow up was arranged

CKD stage III:
This remained stable.  Her lisinopril was stopped on discharge 
in favor of Lasix

HTN, benign: stable.  Lisinopril stopped per above

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H cough 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puffs inhaled four 
times a day Disp #*1 Inhaler Refills:*0
2. Guaifenesin-Dextromethorphan ___ mL PO Q6H:PRN cough 
3. Furosemide 10 mg PO DAILY 
please have your kidney and electrolytes tested on next follow 
up 
RX *furosemide 20 mg 0.5 (One half) tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0
4. Outpatient Lab Work
on next follow up.  please have your kidney and electrolytes 
tested

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic pancreatic cancer to lung, liver, abdomen
Ascites

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were found to have pancreatic cancer which has spread to 
throughout your body, as well as fluid in your abdomen.  This is 
the likely cause of your symptoms.  Please follow up closely 
with your PCP and the palliative care clinic to help with your 
symptoms.  Please take all medications as prescribed
 
Followup Instructions:
___